US04305881
A mixture of 0.594 g (0.0856 g-atom) of lithium in 500 ml of dry liquid ammonia of -31° C. to -33° C. is prepared and stirred for 5 minutes. Then, a solution of 4.535 g (0.0122 mol) of 20,20-ethylenedioxy-1α,2α-epoxy-pregna-4,6-dien-3-one in 300 ml of ether/tetrahydrofuran (2:1) is added to the mixture dropwise under argon during 40 minutes. The resulting deep blue mixture (at -33° C.) is stirred for a further 15 minutes and treated with 2 ml of isoprene until the colour changes to yellow. A total of 4.579 g (0.0856 mol) of ammonium chloride are added in portions with stirring. To the mixture is then added 0.654 g (0.0122 mol) of ammonium chloride and subsequently 0.0849 g (0.0122 g-atom) of lithium. As soon as the lithium has dissolved, this procedure, i.e. the addition of 0.0122 mol of ammonium chloride followed by the amount of lithium equivalent thereto is repeated a further fifteen times, for which a total of 9.81 g (0.183 mol) of ammonium chloride and 1.273 g (0.183 g-atom) of lithium are required. As soon as the lithium of the last addition has dissolved, 9.5 g (0.17 mol) of ammonium chloride and then 500 ml of ether are added. Ammonia is evaporated with stirring until an internal temperature of 0° C. has been reached and the remaining suspension is treated with 500 ml of water and 500 ml of ether. The organic phase is separated and the aqueous phase is back-extracted with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated at 40° C. in a water-jet vacuum. The residue yields, by chromatography on 150 g of silica gel with ether/tetrahydrofuran (19.1) and (4:1), 3.9 g (85%) of uniform 20,20-ethylenedioxy-1α,3β-dihydroxy-pregn-5-ene. The analytical sample is obtained by recrystallisation from methanol; melting point 203°-207° C.; [α]D25 =-47° (c=0.5 in chloroform).

reactant | lithium | 0.594 g | [Li] | Li
reactant | ammonia | N | H3N
reactant | 20,20-ethylenedioxy-1α,2α-epoxy-pregna-4,6-dien-3-one | 0.0122 mol, 4.535 g | C1OC(C)([C@H]2CC[C@H]3[C@@H]4C=CC5=CC([C@H]6[C@@H]([C@]5(C)[C@H]4CC[C@]23C)O6)=O)OC1 | C23H30O4
reactant | isoprene | 2 ml | C=CC(C)=C | C5H8
reactant | ammonium chloride | 0.0856 mol, 4.579 g | [Cl-].[NH4+]
reactant | ammonium chloride | 0.0122 mol, 0.654 g | [Cl-].[NH4+]
reactant | lithium | 0.0849 g | [Li] | Li
reactant | ammonium chloride | 0.0122 mol | [Cl-].[NH4+]
reactant | ammonium chloride | 0.183 mol, 9.81 g | [Cl-].[NH4+]
reactant | lithium | 1.273 g | [Li] | Li
reactant | ammonium chloride | 0.17 mol, 9.5 g | [Cl-].[NH4+]
solvent | ether tetrahydrofuran | 300 ml | CCOCC.O1CCCC1
solvent | ether | 500 ml | CCOCC | C4H10O
product | 20,20-ethylenedioxy-1α,3β-dihydroxy-pregn-5-ene | 3.9 g, 85% | C1OC(C)([C@H]2CC[C@H]3[C@@H]4CC=C5C[C@H](C[C@@H]([C@]5(C)[C@H]4CC[C@]23C)O)O)OC1 | C23H36O4
